US08470820B2
Step 1: 3-Amino-6-cyclopropyl-pyridine-2-carboxylic acid ethyl ester
To a solution of 3-amino-6-bromo-pyridine-2-carboxylic acid ethyl ester (prepared according to US 2006/199960; 1.0 g, 4.08 mmol), potassium phosphate (3.03 g, 14.3 mmol), tricyclohexylphosphine (0.228 g, 0.82 mmol) and water (1.25 ml) in toluene (25 ml) was added cyclopropylboronic acid (0.91 g, 10.6 mmol) and palladium (II) acetate (90 mg, 0.4 mmol). The resulting suspension was stirred at 100° C. for 24 hours. After solvent evaporation, the title compound was obtained after silica gel chromatography using a heptane/ethyl acetate gradient as yellow solid (0.374 g, 44%).

reactant | 3-amino-6-bromo-pyridine-2-carboxylic acid ethyl ester | 4.08 mmol, 1.0 g | C(C)OC(=O)C1=NC(=CC=C1N)Br | C8H9BrN2O2
reactant | potassium phosphate | 14.3 mmol, 3.03 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 0.82 mmol, 0.228 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | cyclopropylboronic acid | 10.6 mmol, 0.91 g | C1(CC1)B(O)O | C3H7BO2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.4 mmol, 90 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 1.25 ml | O | H2O
product | 3-Amino-6-cyclopropyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1N)C1CC1 | C11H14N2O2
